US07705027B2
5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-4-iodo-isoxazole-3-carboxylic acid ethylamide (1 eq) was dissolved in methanol and powdered 3A sieves were added. Morpholine (2 eq) was added, followed by sodium cyanoborohydride (2 eq). Acetic acid (5 eq) was added drop wise and the suspension was stirred under nitrogen at ambient temperature for 16 hours. The reaction mixture was diluted with DCM and washed with sat. NaHCO3(aq). The organic phase was dried over MgSO4, filtered and concentrated in vacuo. The resulting gum was purified by flash chromatography, eluting with 1% MeOH in DCM to give 5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide as a colourless oil.

reactant | 5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-4-iodo-isoxazole-3-carboxylic acid ethylamide | 1 eq | C(C)NC(=O)C1=NOC(=C1I)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C29H29IN2O4
reactant | Morpholine | 2 eq | N1CCOCC1 | C4H9NO
reactant | sodium cyanoborohydride | 2 eq | C(#N)[BH3-].[Na+]
reactant | Acetic acid | 5 eq | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide | C(C)NC(=O)C1=NOC(=C1C1=CC=C(C=C1)CN1CCOCC1)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C40H43N3O5
